US08110676B2
A mixture of 100 mg of 3′-azido-thymidine (0.37 mmol) and 0.5 ml triethylphosphate was gradually added to a mixture of 1 ml triethylphosphate and 100 μl phosphorus oxychloride (1.0 mmol) at 0° C. The mixture was maintained at 0-4° C. for 16 h under stirring. Then 10 ml of ice-cold 5% NaHCO3 in water was added and after stirring at 0° C. for 1 hour, the pH was adjusted to 7.0 with NaOH 1M. After further 12 h under stirring, the mixture was extract with 3×10 ml of diethyl ether to remove triethylphosphate. The water solution was subjected to volume reduction (1 ml) and loaded onto a DEAE-cellulose column. The column was eluted with a linear gradient (0.05-0.4 M) of triethylammonium bicarbonate, pH 7.5. Appropriate fractions were evaporated under vacuum. Methanol was added and evaporated again to remove triethylammonium bicarbonate obtaining 3′-azidothymidine-5′-monophosphate triethylammonium salt as white solid (90 mg, 0.15 mmol, yield=40%).

reactant | 3′-azido-thymidine | 0.37 mmol, 100 mg | N(=[N+]=[N-])[C@@]1(C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)O | C10H13N5O5
reactant | triethylphosphate | 0.5 ml | C(C)OP(=O)(OCC)OCC | C6H15O4P
reactant | triethylphosphate | 1 ml | C(C)OP(=O)(OCC)OCC | C6H15O4P
reactant | phosphorus oxychloride | 1.0 mmol, 100 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | O | H2O
product | 3′-azidothymidine-5′-monophosphate triethylammonium | 0.15 mmol, 90 mg, yield=40% | C(C)[NH+](CC)CC.P(=O)([O-])([O-])OC[C@@H]1[C@](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)(O)N=[N+]=[N-].C(C)[NH+](CC)CC | InChI=1S/C10H14N5O8P.2C6H15N/c1-5-3-15(9(17)12-8(5)16)7-2-10(18,13-14-11)6(23-7)4-22-24(19,20)21;2*1-4-7(5-2)6-3/h3,6-7,18H,2,4H2,1H3,(H,12,16,17)(H2,19,20,21);2*4-6H2,1-3H3/t6-,7-,10+;;/m1../s1
